US07291631B2
To a stirred solution of 3-Bromo-2-methyl-pyridine (1.96 g, 11.4 mmol) in glacial HOAc (20 mL) at room temperature was added 50% H2O2 (0.77 mL) and the solution was heated to 70° C. After 2 h, the reaction mixture was cooled to room temperature, additional H2O2 (0.80 mL) was added, and the solution was heated at 70° C. overnight. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (80 mL) and treated with saturated aqueous NaHCO3 (20 mL). The aqueous phase was separated and extracted with CH2Cl2 (4×20 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated to provide 3-Bromo-2-methyl-pyridine 1-oxide (1.79 g, 84%) as a white solid. 1H NMR (CDCl3) δ 2.70 (s, 3H), 7.00 (t, 1H, J=7.0 Hz), 7.44 (d, 1H, J=7.9 Hz), 8.23 (d, 1H, J=6.5 Hz). 3-Bromo-2-methyl-pyridine 1-oxide was used without further purification.

reactant | 3-Bromo-2-methyl-pyridine | 11.4 mmol, 1.96 g | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | H2O2 | 0.77 mL | OO | H2O2
reactant | H2O2 | 0.80 mL | OO | H2O2
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | 3-Bromo-2-methyl-pyridine 1-oxide | 1.79 g, 84% | BrC=1C(=[N+](C=CC1)[O-])C | C6H6BrNO
